US04558134
6-Chloro-3-ethylthio-2-pyridinecarbonitrile (23.8 g) was mixed with 25.8 g of 4-benzoylphenol in the presence of 15.7 g of t-BuOK in 150 ml of THF and 30 ml DMSO. After reaction, the mixture was filtered leaving a solid residue from which 12.4 g of the desired 6-(4-benzoylphenoxy)-3-ethylthio-2-pyridinecarbonitrile (m.p. 88°-90° C.) was recovered. An additional 6.5 g of desired product was isolated from the filtrate by separation on a Water's Prep LC 500 instrument (using a 10% acetone in hexane eluant).

reactant | 6-Chloro-3-ethylthio-2-pyridinecarbonitrile | 23.8 g | ClC1=CC=C(C(=N1)C#N)SCC | C8H7ClN2S
reactant | 4-benzoylphenol | 25.8 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)O | C13H10O2
reactant | t-BuOK | 15.7 g | CC(C)(C)[O-].[K+]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | DMSO | 30 ml | CS(=O)C | C2H6OS
product | 6-(4-benzoylphenoxy)-3-ethylthio-2-pyridinecarbonitrile | 12.4 g | C(C1=CC=CC=C1)(=O)C1=CC=C(OC2=CC=C(C(=N2)C#N)SCC)C=C1 | C21H16N2O2S
